US04339267
To 20 ml of dry toluene was added 2.4 ml of 2 M trimethylaluminum in toluene under a nitrogen atmosphere. Subsequently, 0.82 g cyclopentanol in 1 ml toluene was added via syringe and the mixture stirred at ambient temperature for 15 minutes. After addition of 1.56 g of methyl 2-[[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoate to the mixture, the reaction was heated to 80° for 3.5 hours. The mixture was then cooled in ice while B 40 ml of 5% aqueous hydrochloric acid was added. Ethyl acetate was then added and shaking of the two phase mixture resulted in the crystallization of the product which was collected and dried to yield 1.5 g of 2-[[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, cyclopentyl, ester, m.p. 183°-184°. The product showed characteristic absorptions at 3120, 1725, 1720 cm-1 in the infrared spectrum and at 1.7-2.35, 2.50, 2.95, 5.4, 7.6, 8.4, 8.5 and 13.0 ppm in the nuclear magnetic resonance spectrum (60 MHz), indicating the title compound.

reactant | trimethylaluminum | 2 M, 2.4 ml | C[Al](C)C
reactant | cyclopentanol | 0.82 g | C1(CCCC1)O | C5H10O
reactant | methyl 2-[[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoate | 1.56 g | CC1=NC(=NC2=C1CCC2)NC(=O)NS(=O)(=O)C2=C(C(=O)OC)C=CC=C2 | C17H18N4O5S
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[[(6,7-dihydro-4-methyl-5H-cyclopentapyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid | 1.5 g | CC1=NC(=NC2=C1CCC2)NC(=O)NS(=O)(=O)C2=C(C(=O)O)C=CC=C2 | C16H16N4O5S
